US04509537
1-(2-Methoxyphenoxycarbonyloxy)-5-pentanol
The reaction of 2-methoxyphenol chloroformate with 1,5-pentanediol is conducted on a 0.01 mole scale using the same conditions as described in Example IV. A 1.4 g yield of the pure product is obtained as an oil.

reactant | 2-methoxyphenol chloroformate | ClC(=O)OC1=C(C=CC=C1)OC | C8H7ClO3
reactant | 1,5-pentanediol | C(CCCCO)O | C5H12O2
product | 1-(2-Methoxyphenoxycarbonyloxy)-5-pentanol | COC1=C(OC(=O)OCCCCCO)C=CC=C1 | C13H18O5
